US03950528
3-Amino-1-(4-bromobenzyl)-pyrazol-5-one ##SPC8##
17.5 g of β-amino-β-ethoxyacrylic acid ethyl ester and 20 g of 4-bromobenzylhydrazine, on stirring for 5 hours in alcohol at 50° and working up as described in Example 1, yield 15.6 g of the compound identified above, corresponding to 58% of theory, as colorless crystals of melting point 139°.

reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 17.5 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | 4-bromobenzylhydrazine | 20 g | BrC1=CC=C(CNN)C=C1 | C7H9BrN2
product | 3-Amino-1-(4-bromobenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=CC=C(C=C1)Br | C10H10BrN3O
